US04477466
4-[(2-Sulfamoyl-5-thienyl)sulfonyl]phenyl 2,2-Dimethylpropionate
A solution of 5-[(4-hydroxyphenyl)sulfonyl]-thiophene-2-sulfonamide (4.66 g, 0.01459 mole) in acetone (90 ml) at 0° was treated with triethylamine (1.62 g, 0.0160 mole) and 4-dimethylaminopyridine (75 mg). Trimethylacetic anhydride (2.98 g, 0.0160 mole) was added, dropwise, during 20 minutes at 0°. The cooling bath was removed and stirring was continued for 1 hour. The acetone was removed in vacuo and the residue was dissolved in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. The ethyl acetate was evaporated in vacuo to give a white solid; yield, 5.89 g; m.p. 192°-195°. Recrystallization from 1,2-dichloroethane gave the title compound as white needles, m.p. 194°-197°.

reactant | 5-[(4-hydroxyphenyl)sulfonyl]-thiophene-2-sulfonamide | 0.01459 mole, 4.66 g | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(S1)S(=O)(=O)N | C10H9NO5S3
reactant | triethylamine | 0.0160 mole, 1.62 g | C(C)N(CC)CC | C6H15N
reactant | Trimethylacetic anhydride | 0.0160 mole, 2.98 g | CC(C(=O)OC(C(C)(C)C)=O)(C)C | C10H18O3
solvent | acetone | 90 ml | CC(=O)C | C3H6O
catalyst | 4-dimethylaminopyridine | 75 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[(2-Sulfamoyl-5-thienyl)sulfonyl]phenyl 2,2-Dimethylpropionate | CC(C(=O)OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(S1)S(N)(=O)=O)(C)C | C15H17NO6S3
